US09029504B2
2-Docosyloxy-9-(4-chlorophenyl)-9-fluorenol (200 mg, 0.33 mmol) prepared in the above-mentioned 1-2 was dissolved in chloroform (2 ml), acetyl bromide (48 μl, 0.65 mmol) was added dropwise and the mixture was stirred for 1 hour. After completion of the reaction, the solvent was evaporated, and the residue was precipitated with acetonitrile (2 ml) to give 2-docosyloxy-9-(4-chlorophenyl)-9-bromofluorene (209 mg, 0.31 mmol, 95%.

reactant | 2-Docosyloxy-9-(4-chlorophenyl)-9-fluorenol | 0.33 mmol, 200 mg | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=2C(C3=CC=CC=C3C2C=C1)(O)C1=CC=C(C=C1)Cl | C41H57ClO2
reactant | acetyl bromide | 0.65 mmol, 48 μl | C(C)(=O)Br | C2H3BrO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-docosyloxy-9-(4-chlorophenyl)-9-bromofluorene | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=2C(C3=CC=CC=C3C2C=C1)(Br)C1=CC=C(C=C1)Cl | C41H56BrClO
